**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 SMT High Current Inductor
* Matchcode:             WE-CHSA
* Library Type:          Pspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         6/9/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt CHSA_1011_7843330033_0u33 1 2
Rp 1 2 173.347
Cp 1 2 1.5p
Rs 1 N3 0.0014
L1 N3 2 0.350437u
.ends CHSA_1011_7843330033_0u33
*******
.subckt CHSA_1011_7843330056_0u56 1 2
Rp 1 2 327.941
Cp 1 2 4.14p
Rs 1 N3 0.0017
L1 N3 2 0.611835u
.ends CHSA_1011_7843330056_0u56
*******
.subckt CHSA_1011_7843330100_1u 1 2
Rp 1 2 538.519
Cp 1 2 3.416p
Rs 1 N3 0.0024
L1 N3 2 0.915553u
.ends CHSA_1011_7843330100_1u
*******
.subckt CHSA_1011_7843330180_1u8 1 2
Rp 1 2 1113
Cp 1 2 3.38p
Rs 1 N3 0.0039
L1 N3 2 1.783u
.ends CHSA_1011_7843330180_1u8
*******
.subckt CHSA_1011_7843330330_3u3 1 2
Rp 1 2 1872
Cp 1 2 2.769p
Rs 1 N3 0.0054
L1 N3 2 2.958u
.ends CHSA_1011_7843330330_3u3
*******
.subckt CHSA_1011_7843330390_3u9 1 2
Rp 1 2 2228
Cp 1 2 2.4846733735p
Rs 1 N3 0.00725
L1 N3 2 3.406u
.ends CHSA_1011_7843330390_3u9
*******
.subckt CHSA_1011_7843330560_5u6 1 2
Rp 1 2 3691
Cp 1 2 3.017p
Rs 1 N3 0.01085
L1 N3 2 5.297u
.ends CHSA_1011_7843330560_5u6
*******
.subckt CHSA_1011_7843330820_8u2 1 2
Rp 1 2 4914
Cp 1 2 3.221p
Rs 1 N3 0.0159
L1 N3 2 6.921u
.ends CHSA_1011_7843330820_8u2
*******
.subckt CHSA_1011_7843331000_10u 1 2
Rp 1 2 5588
Cp 1 2 3.239p
Rs 1 N3 0.0215
L1 N3 2 8.652u
.ends CHSA_1011_7843331000_10u
*******
.subckt CHSA_1011_7843331200_12u 1 2
Rp 1 2 9806.78338388
Cp 1 2 2.42581600528p
Rs 1 N3 0.0277
L1 N3 2 12.6279218099u
.ends CHSA_1011_7843331200_12u
*******
.subckt CHSA_1011_7843331800_18u 1 2
Rp 1 2 12350
Cp 1 2 2.922p
Rs 1 N3 0.03425
L1 N3 2 15.888u
.ends CHSA_1011_7843331800_18u
*******
.subckt CHSA_1011_7843332000_20u 1 2
Rp 1 2 13884
Cp 1 2 2.917p
Rs 1 N3 0.0508
L1 N3 2 20.163u
.ends CHSA_1011_7843332000_20u
*******
.subckt CHSA_1212_7843320039_0u39 1 2
Rp 1 2 161.175
Cp 1 2 7.28p
Rs 1 N3 0.00135
L1 N3 2 0.348075u
.ends CHSA_1212_7843320039_0u39
*******
.subckt CHSA_1212_7843320068_0u68 1 2
Rp 1 2 289.234
Cp 1 2 5.6p
Rs 1 N3 0.0017
L1 N3 2 0.579173u
.ends CHSA_1212_7843320068_0u68
*******
.subckt CHSA_1212_7843320100_1u 1 2
Rp 1 2 482.699
Cp 1 2 3.85p
Rs 1 N3 0.002
L1 N3 2 1.001u
.ends CHSA_1212_7843320100_1u
*******
.subckt CHSA_1212_7843320150_1u5 1 2
Rp 1 2 853.40702436469
Cp 1 2 2.91228430955172p
Rs 1 N3 0.0027
L1 N3 2 1.55489890604933u
.ends CHSA_1212_7843320150_1u5
*******
.subckt CHSA_1212_7843320270_2u7 1 2
Rp 1 2 1380
Cp 1 2 4.1p
Rs 1 N3 0.0039
L1 N3 2 2.478u
.ends CHSA_1212_7843320270_2u7
*******
.subckt CHSA_1212_7843320330_3u3 1 2
Rp 1 2 1256
Cp 1 2 3.7p
Rs 1 N3 0.0053
L1 N3 2 3.396u
.ends CHSA_1212_7843320330_3u3
*******
.subckt CHSA_1212_7843320470_4u7 1 2
Rp 1 2 2719
Cp 1 2 3.639p
Rs 1 N3 0.00685
L1 N3 2 4.928u
.ends CHSA_1212_7843320470_4u7
*******
.subckt CHSA_1212_7843320680_6u8 1 2
Rp 1 2 3982
Cp 1 2 2.75p
Rs 1 N3 0.0099
L1 N3 2 6.703u
.ends CHSA_1212_7843320680_6u8
*******
.subckt CHSA_1212_7843320820_8u2 1 2
Rp 1 2 4871
Cp 1 2 3.553p
Rs 1 N3 0.01245
L1 N3 2 7.887u
.ends CHSA_1212_7843320820_8u2
*******
.subckt CHSA_1212_7843321000_10u 1 2
Rp 1 2 5243
Cp 1 2 3.22p
Rs 1 N3 0.01695
L1 N3 2 8.7u
.ends CHSA_1212_7843321000_10u
*******
.subckt CHSA_1212_7843321200_12u 1 2
Rp 1 2 7227.97
Cp 1 2 2.83341268310714p
Rs 1 N3 0.0179
L1 N3 2 10.7689388817107u
.ends CHSA_1212_7843321200_12u
*******
.subckt CHSA_1212_7843321800_18u 1 2
Rp 1 2 11674.8658463
Cp 1 2 3.30968658028p
Rs 1 N3 0.032
L1 N3 2 17.4350688226u
.ends CHSA_1212_7843321800_18u
*******
.subckt CHSA_1212_7843322000_20u 1 2
Rp 1 2 14544
Cp 1 2 3.664p
Rs 1 N3 0.0359
L1 N3 2 20.227u
.ends CHSA_1212_7843322000_20u
*******
.subckt CHSA_8090_7843340033_0u33 1 2
Rp 1 2 289.506
Cp 1 2 2.1p
Rs 1 N3 0.00175
L1 N3 2 0.312059u
.ends CHSA_8090_7843340033_0u33
*******
.subckt CHSA_8090_7843340047_0u47 1 2
Rp 1 2 468.308
Cp 1 2 2.62p
Rs 1 N3 0.0023
L1 N3 2 0.452357u
.ends CHSA_8090_7843340047_0u47
*******
.subckt CHSA_8090_7843340068_0u68 1 2
Rp 1 2 682.666
Cp 1 2 1.94p
Rs 1 N3 0.00345
L1 N3 2 0.746687u
.ends CHSA_8090_7843340068_0u68
*******
.subckt CHSA_8090_7843340100_1u 1 2
Rp 1 2 985.376
Cp 1 2 2.45p
Rs 1 N3 0.0049
L1 N3 2 1.028u
.ends CHSA_8090_7843340100_1u
*******
.subckt CHSA_8090_7843340220_2u2 1 2
Rp 1 2 2186
Cp 1 2 2.501p
Rs 1 N3 0.01
L1 N3 2 2.24u
.ends CHSA_8090_7843340220_2u2
*******
.subckt CHSA_8090_7843340330_3u3 1 2
Rp 1 2 3271
Cp 1 2 1.7p
Rs 1 N3 0.01535
L1 N3 2 3.287u
.ends CHSA_8090_7843340330_3u3
*******
.subckt CHSA_8090_7843340470_4u7 1 2
Rp 1 2 5206
Cp 1 2 1.994p
Rs 1 N3 0.0241
L1 N3 2 5.057u
.ends CHSA_8090_7843340470_4u7
*******
